US07696223B2
b) 7-Benzyloxy-4-iodo-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 7-hydroxy-4-iodo-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (405 mg, 0.95 mmole), benzyl bromide (170 μl, 1.43 mmole), potassium carbonate (329 mg, 2.38 mmole) in dimethylformamide (5 ml) was stirred at room temperature for four hours before it was partitioned between ethyl acetate and water, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a white solid (451 mg). MS: (+) m/z 517.04 (M+1).

reactant | 7-hydroxy-4-iodo-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.95 mmole, 405 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)I)N=C(S2)C2=CC=CC=C2)O | C15H11IN2O3S
reactant | benzyl bromide | 1.43 mmole, 170 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 2.38 mmole, 329 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-Benzyloxy-4-iodo-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 451 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)I)N=C(S2)C2=CC=CC=C2)OCC2=CC=CC=C2 | C22H17IN2O3S
